US07635715B2
Step C: Preparation of Diethyl 2-(4-(3-bromo-4-methoxyphenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate
A mixture of diethyl malonate (2.8 g, 17 mmol) in 50 mL ACN was stirred at 0° C. This mixture was treated with MgCl2 (1.7 g, 17 mmol) in one portion and dropwise with TEA (3.9 g, 38 mmol). The resulting mixture was then stirred at room temperature for 2.5 hours. A mixture of 4-(3-bromo-4-methoxyphenyl)-tetrahydro-2H-pyran-4-carboxylic acid (5.5 g, 17 mmol) in thionyl chloride (21 g, 175 mmol) was refluxed for 2 hours and then concentrated in vacuo. The residue was diluted with 10 mL ACN and added dropwise to the above mixture. The mixture was stirred at 50° C. for 15 hours, M−1=455/457. The mixture was cooled to room temperature, diluted with 100 mL ether, washed with H2O (2×50 mL) and brine (20 mL), dried over anhydrous Na2SO4, and concentrated in vacuo. The crude product was purified by column chromatography eluting with 10-20% EtOAc/hexane to give 1.25 g of the intermediate as a pale yellow oil. MS m/e=455/457 (M+H)+.

reactant | diethyl malonate | 17 mmol, 2.8 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | MgCl2 | 17 mmol, 1.7 g | [Mg+2].[Cl-].[Cl-]
reactant | 4-(3-bromo-4-methoxyphenyl)-tetrahydro-2H-pyran-4-carboxylic acid | 17 mmol, 5.5 g | BrC=1C=C(C=CC1OC)C1(CCOCC1)C(=O)O | C13H15BrO4
reactant | thionyl chloride | 175 mmol, 21 g | S(=O)(Cl)Cl | Cl2OS
solvent | ACN | 50 mL | C(C)#N | C2H3N
product | Diethyl 2-(4-(3-bromo-4-methoxyphenyl)-tetrahydro-2H-pyran-4-carbonyl)malonate | 1.25 g | BrC=1C=C(C=CC1OC)C1(CCOCC1)C(=O)C(C(=O)OCC)C(=O)OCC | C20H25BrO7
